US08314098B2
(Step 1): 5,7-Dichloro-2-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidine
There was dissolved, in acetonitrile (40 mL), 5-amino-3-(4-methyl-phenyl)-pyrazole (2.00 g, 11.5 mM) in an argon gas atmosphere, malonyl chloride (1.34 mL, 13.8 mM) was added to the resulting solution with ice-cooling and the mixture was stirred at room temperature for 30 minutes. To this reaction liquid, there was added malonyl chloride (134 μL, 1.38 mM) followed by the further stirring of the mixture for 30 minutes. This reaction liquid was diluted with a 1M aqueous sodium hydroxide solution, washed with methylene chloride, and hydrochloric acid was added to the aqueous phase to make the same acidic (pH 2), followed by the extraction with ethyl acetate. The resulting extracts were combined and then concentrated, and the resulting solid was washed with diethyl ether. After the addition of phosphoryl chloride (5 mL) to the resulting solid with ice-cooling, the resulting suspension was stirred for 3 hours, while refluxing the same with heating. The phosphoryl chloride was distilled off from the reaction liquid, ethanol was added to the residue thus obtained with ice-cooling and then the mixture was stirred for 15 minutes. The reaction liquid was concentrated and then the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:10) to thus give the title compound (153 mg, overall yield of these two steps: 4%).

reactant | 5-amino-3-(4-methyl-phenyl)-pyrazole | 11.5 mM, 2.00 g | NC1=CC(=NN1)C1=CC=C(C=C1)C | C10H11N3
reactant | malonyl chloride | 13.8 mM, 1.34 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | malonyl chloride | 1.38 mM, 134 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 5,7-Dichloro-2-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=C(C=C2)C | C13H9Cl2N3
